US06326375B1
(2) Preparation of 1′-benzyl-6-ethylspiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride
Under a nitrogen atmosphere, a solution of 2-(4-ethylphenyl)-4,4-dimethyl-2-oxazoline (1.15 g) in anhydrous tetrahydrofuran (100 mL) was cooled to −78° C. To this solution was added 1.5 M butyl lithium hexane solution (4.53 mL). After being stirred for 1 hour, 1-benzyl-4-piperidone (1.05 mL) was added dropwise. After the reaction temperature was allowed to rise up to room temperature, 2N hydrochloric acid was added to the reaction mixture to make the mixture acidic. The whole was refluxed for 2 hours. After cooling, sodium hydroxide aqueous solution was added to make the reaction mixture basic. The mixture was extracted with ethyl ether. The organic layer was washed with saturated saline solution and then dried over anhydrous Na2SO4. The concentration of the organic solvent left a residue, which was purified by column chromatography on silica gel (hexane/ethyl acetate/=3/2) to give the subject compound (409 mg).

reactant | 2-(4-ethylphenyl)-4,4-dimethyl-2-oxazoline | 1.15 g | C(C)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C13H17NO
reactant | butyl lithium hexane | 1.5 M, 4.53 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 1.05 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1′-benzyl-6-ethylspiro[isobenzofuran-1(3H),4′-piperidine]-3-one hydrochloride | 409 mg | Cl.C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=CC=C(C=C12)CC)=O | InChI=1S/C21H23NO2.ClH/c1-2-16-8-9-18-19(14-16)21(24-20(18)23)10-12-22(13-11-21)15-17-6-4-3-5-7-17;/h3-9,14H,2,10-13,15H2,1H3;1H
